2118-10-11 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Encephalopathy
   24 Hour Events:
   - Decreased urine output, given 500ml NS bolus with small effect
   - Around 4am, developed hypotension to 80s/40s. Exam with bounding
   pulses, warm extremities at that time. Given another 500ml NS bolus
   with good effect, propofol decreased, and given a bolus of 12.5g of 25%
   albumin (albumin was 1.7 prior to this intervention) with stabilization
   of BPs since that time.
   - NGT output appeared more grossly bloody - followed serial Hcts, IV
   PPI.
   - K+ bolus for K+ of 3.3
 URINE CULTURE - At [**2118-10-11**] 12:00 AM
 SPUTUM CULTURE - At [**2118-10-11**] 02:00 AM
 EKG - At [**2118-10-11**] 05:30 AM
 NSR, QRS 118, QTc 477
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2118-10-11**] 02:30 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-10-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-10-11**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 79 (76 - 107) bpm
   BP: 90/53(61) {83/41(51) - 155/101(114)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.7 kg (admission): 90 kg
           Total In:
                                                                    261 mL
                                                                  2,678 mL
   PO:
           TF:
   IVF:
                                                                    261 mL
                                                                  2,348 mL
   Blood products:
   50 mL
   Total out:
                                                                    415 mL
                                                                    572 mL
   Urine:
                                                                    415 mL
                                                                    172 mL
   NG:
   400 mL
   Stool:
   Drains:
   Balance:
                                                                   -154 mL
                                                                  2,106 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 140
   PIP: 22 cmH2O
   Plateau: 14 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.51/39/263/24/7 on 80% FiO2
   Ve: 10.5 L/min
   PaO2 / FiO2: 658
   Physical Examination
   Gen: Sedated, intubated, does not respond to commands but does withdraw
   to pain and become agitated with cares
   HEENT: Pupils 2mm and reactive bilaterally, +scleral icterus, MMM, NGT
   in place
   CV: RRR, with grade 2/6 systolic murmur heard best at LUSB, bounding
   peripheral pulses
   Lungs: Vented breaths, well-aerated and clear anteriorly, decreased at
   the bases bilaterally
   Abd: Significantly distended with palpable mass in epigastric area c/w
   mass in L lobe of liver, liver edge palpable ~4cm BCM, +spleen tip,
   abdomen is soft, does not appear to be tender, +BS, ?small amount of
   ascites
   Ext: WWP, 2+ pitting edema to lower extremities bilaterally
   Skin: Multiple spider angiomas, extensive ecchymosis over
   buttocks/lower back
   Neuro: Sedated and intubated, not following commands but does respond
   to pain/cares, MAEE when agitated
   Labs / Radiology
   217 K/uL
   8.7 g/dL
   88 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.3 mEq/L
   42 mg/dL
   98 mEq/L
   130 mEq/L
   25.4 %
   11.2 K/uL
        [image002.jpg]
                             [**2118-10-10**]  11:53 PM
                             [**2118-10-11**]  01:49 AM
   WBC
   11.2
   Hct
   25.4
   Plt
   217
   Cr
   1.3
   TropT
   <0.01
   TCO2
   32
   Glucose
   88
   Other labs: PT / PTT / INR:26.8/39.1/2.7, CK / CKMB /
   Troponin-T:61//<0.01, ALT / AST:32/129, Alk Phos / T Bili:100/9.3,
   Fibrinogen:257 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:1.7 g/dL, LDH:446
   IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   The pt is a 48y/o M with PMH of Hepatitis C, HCC and alcoholic
   cirrhosis admitted with altered mental status requiring intubation for
   airway protection in the setting of suspected opioid overdose.
   .
   # Encephalopathy - most likely multifactorial involving end stage liver
   disease,?anoxic-insult given unknown down time, and drug toxicity. Head
   CT negative at OSH. Appears to be waking up more today as propofol is
   lightened.  Plan to:
   - hold sedating medications
   - increase lactulose to 60ml po q2h, titrate to stool 4-6x/day (no
   stool yet overnight)
   - given his improved responsiveness on exam, will plan to wean propofol
   #Respiratory failure
 in the setting of encephalopathy and need for
   airway protection. CXR actually improved this AM.  Will attempt to wean
   vent settings to PS and try to extubate today if possible.
   # EtOH Cirrhosis/HepC/HCC
 per recent history, his HCC is rapidly
   progressing and his liver function is rapidly declining.  He has many
   stigmata of liver disease, both on exam and laboratory testing.
   - s/p one dose of vitamin K last night, unlikely to improve coags, but
   will repeat coags today
   - c/s liver team today, ?role of steroids given his current hepatic
   function
   - family meeting to assess goals of care
   # Hx of heavy EtOH abuse - maintain on CIWA scale with ativan per
   protocol
   # PNA - CXR consistent with consolidation at bases, given unclear
   duration of pt's down time prior to transfer to ED will cover for
   possible aspiration PNA.
   - Continue Zosyn (obtain ID approval today)
   - F/u sputum culture .
   # Guaiac + NGT aspirate - pt with history varices and significant
   variceal bleeding, also EtOH abuse. Hct stable overnight and
   hemodynamics not c/w acute bleed.
   - Continue to follow q6-8h Hcts
   - IV PPI [**Hospital1 **]
   - consider EGD if evidence of active bleeding
   - two type and screens sent
   - 2 PIV
   # Hypotension
 likely secondary to physiology of hepatic failure and
   possibly opioid toxicity.  Improved with volume resuscitation and
   albumin overnight.  Physiology c/w a distributive process given her
   warm extremities and bounding pulses.
   - Continue to hold home BP meds
   - Follow BPs and urine ouput closely, adjust regimen as needed
   #Hyponatremia
 Likely secondary to end-stage liver disease and
   component of pre-renal azotemia. Improving appropriately with NS.
   Continue to follow q6h Na, lytes, and renal function.
   #Hypokalemia
 Replete K+ today with an IV bolus, repeat K+ this
   afternoon.
   # Large Flank Hematoma - given unclear duration prior to discovery of
   pt and extent of hematoma, we checked a CK which was normal.  Area
   outlined, will continue to follow closely. Moving both lower
   extremities equally.
   # FEN - NPO for now, hoping for possible extubation today.
   .
   # Access - 2 PIVs
   .
   # Code
 Full for now. Will attempt to clarify his wishes with his
   family today.
   .
   # Dispo - ICU
   ICU Care
   Nutrition: NPO for now pending possible extubation
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-10-10**] 09:00 PM
   20 Gauge - [**2118-10-10**] 09:00 PM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  IV PPI [**Hospital1 **]
   Communication:  Comments:
   Code status: Full for now, need to clarify with family
   Disposition: ICU

2118-10-11 09:36:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, oxycontin overdose, liver
   failure, heoatocellular carcinmoa
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2118-10-10**] 09:30 PM
 URINE CULTURE - At [**2118-10-11**] 12:00 AM
 SPUTUM CULTURE - At [**2118-10-11**] 02:00 AM
 EKG - At [**2118-10-11**] 05:30 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2118-10-11**] 02:30 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-10-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-10-11**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 97 (76 - 107) bpm
   BP: 116/56(72) {83/41(51) - 155/101(114)} mmHg
   RR: 13 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.7 kg (admission): 90 kg
           Total In:
                                                                    261 mL
                                                                  3,234 mL
   PO:
           TF:
   IVF:
                                                                    261 mL
                                                                  2,834 mL
   Blood products:
   50 mL
   Total out:
                                                                    415 mL
                                                                    683 mL
   Urine:
                                                                    415 mL
                                                                    283 mL
   NG:
   400 mL
   Stool:
   Drains:
   Balance:
                                                                   -154 mL
                                                                  2,551 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 140
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.51/39/263/23/7
   Ve: 9.2 L/min
   PaO2 / FiO2: 658
   Physical Examination
   Gen intubated and sedated
   HEENT; ETT
   CVRR
   Chest fair air movement
   ABd distended, palpable mass over epigatrum
   Ext: trace edema
   Neuro: PERRL, spont movement of all ext
   Labs / Radiology
   8.6 g/dL
   192 K/uL
   79 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.3 mEq/L
   41 mg/dL
   100 mEq/L
   131 mEq/L
   24.5 %
   10.3 K/uL
        [image002.jpg]
                             [**2118-10-10**]  11:53 PM
                             [**2118-10-11**]  01:49 AM
                             [**2118-10-11**]  05:05 AM
   WBC
   11.2
   10.3
   Hct
   25.4
   24.5
   Plt
   217
   192
   Cr
   1.3
   1.3
   TropT
   <0.01
   TCO2
   32
   Glucose
   88
   79
   Other labs: PT / PTT / INR:26.8/39.1/2.7, CK / CKMB /
   Troponin-T:61//<0.01, ALT / AST:32/129, Alk Phos / T Bili:100/9.3,
   Fibrinogen:257 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:1.7 g/dL, LDH:446
   IU/L, Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   1.       Respiratory Failure: intubated for airway protection after
   oxycontin overdose. Will switch over to PSV, plan for rapid SBT and
   extubation.
   2.       Opiate Overdose:   may have long half life, watching mental
   status and resp effort which is adequate. Should not limit ability to
   extubate.
   3.       Altered Mental Status: multi factorial
 opiates,  ? etoh,
   hepatic encep[halopathy. Will give lactulose- double the dose.
   4.       Bloody NGT outpt- hemodynamics acceptable, trend HCT q6, IV
   PPI. GI aware,
   5.       PNA: Zosyn- follow up cx
   6.       HypoNa: pre renal plus liver failure.
   ICU Care
   Nutrition: hold TFs
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-10-10**] 09:00 PM
   20 Gauge - [**2118-10-10**] 09:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: chlorhex,
   Communication: will try to reach parents
   Code status: FULL
 trying tp reach parents
   Disposition : ICU
   Total time spent: 40

2118-10-12 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt was extubated yesterday; OGT was pulled out during extubation; on
   2LNC in high 90s-100 w/o issue. D/c
ed Zosyn
Unasyn 3gm IV q6
   EtOH: On CIWA, getting ativan q2-q4 with scores trending down ([**7-14**]
   O/N), received total of 6doses of ativan, sodium normalized, K repleted
   this am
   AMS/Encephalopathy: Improved, last lactulose yest morning, BM
   adequate
   HCC/HCV: Scheduled for RUQ U/S
   Pain: Left hip and back, lidocaine patch given
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2118-10-11**] 02:30 AM
   Ampicillin/Sulbactam (Unasyn) - [**2118-10-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-10-11**] 08:00 PM
   Lorazepam (Ativan) - [**2118-10-12**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-10-12**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 107 (74 - 114) bpm
   BP: 126/62(79) {88/41(53) - 137/113(116)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.7 kg (admission): 90 kg
             Total In:
                                                                  5,127 mL
                                                                    785 mL
   PO:
             TF:
   IVF:
                                                                  4,637 mL
                                                                    785 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  2,920 mL
                                                                    740 mL
   Urine:
                                                                  1,570 mL
                                                                    640 mL
   NG:
                                                                    500 mL
   Stool:
                                                                    850 mL
   Drains:
   Balance:
                                                                  2,207 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 569 (569 - 569) mL
   PS : 5 cmH2O
   RR (Set): 14
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 35
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 7.8 L/min
   Physical Examination
   Gen: NAD, obese, Lying perpendicular in bed, follows commands,
   withdraws from pain
   HEENT: PERRL 4
3mm, EOIMI, +scleral icterus, MMM
   CV: RRR, 2/6 SEM at LUSB, bounding peripheral pulses
   Lungs: Coarse breath sounds anteriorly, patient would not cooperate to
   sit up for posterior exam
   Abd: Significantly distended with palpable mass in epigastric area c/w
   mass in L lobe of liver, liver edge palpable ~1-3cm BRCM, abdomen is
   soft, does not appear to be tender, +BS, ?small amount of ascites
   Ext: WWP, 2+ pitting edema to lower extremities bilaterally
   Skin: Multiple spider angiomas, extensive ecchymosis over
   buttocks/lower back not extending outside of previously drawn margins,
   tender to palpation over ecchymosis
   Neuro: A&Ox2 (place, person), MAE, CNII-XII grossly intact. Would not
   cooperate to assess asterixis.
   Labs / Radiology
   178 K/uL
   8.4 g/dL
   91 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.3 mEq/L
   33 mg/dL
   108 mEq/L
   139 mEq/L
   25.0 %
   8.8 K/uL
        [image002.jpg] Sputum Cx: GS-GPCs in pairs, chains, and clusters
   BCx x2: Pending; Ammonia: 140
                             [**2118-10-10**]  11:53 PM
                             [**2118-10-11**]  01:49 AM
                             [**2118-10-11**]  05:05 AM
                             [**2118-10-11**]  01:50 PM
                             [**2118-10-12**]  01:23 AM
   WBC
   11.2
   10.3
   8.8
   Hct
   25.4
   24.5
   24.9
   25.0
   Plt
   [**Telephone/Fax (3) 5884**]
   Cr
   1.3
   1.3
   1.1
   1.0
   TropT
   <0.01
   TCO2
   32
   Glucose
   88
   79
   113
   91
   Other labs: PT / PTT / INR:26.8/39.5/2.7, CK / CKMB /
   Troponin-T:61//<0.01, ALT / AST:45/201, Alk Phos / T Bili:99/7.6,
   Fibrinogen:257 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:1.8 g/dL, LDH:667
   IU/L, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   The pt is a 48y/o M with PMH of Hepatitis C, HCC and alcoholic
   cirrhosis admitted with altered mental status requiring intubation for
   airway protection in the setting of suspected opioid overdose.
   .
   # Encephalopathy - most likely multifactorial involving end stage liver
   disease,?anoxic-insult given unknown down time, and opiate (Oxycontin)
   or EtOH toxicity, portal vein thrombosis, GI bleed, hyponatremia (126
   upon admission). Head CT negative at OSH. Improving mentation since
   yesterday. Has not received lactulose since yesterday morning, adequate
   BMs.
   - hold sedating medications
   -Will change lactulose 60ml from PO to PR q2h as pt unable to tolerate
   PO; titrate to stool 4-6x/day
   -Will follow hepatology recs
   #Respiratory failure
 intubated for airway protection and then
   extubated yesterday. Sat 90-100 on 2LNC. No changes in CXR.
   -Continue on with 2LNC and attempt weaning.
   # EtOH Cirrhosis/HepC/HCC
 per recent history, his HCC is rapidly
   progressing and his liver function is rapidly declining.  He has many
   stigmata of liver disease, both on exam and laboratory testing.  No
   change in coags O/N
   -Appreciate Hepatology consult
   - RUQ U/S to assess for portal vein thrombosis today
   - family meeting to assess goals of care
   # Hx of heavy EtOH abuse - maintain on CIWA scale with ativan per
   protocol
   -will decrease ativan from 1.0 to 0.5mg PRN per CIWA scale
   # PNA - CXR consistent with consolidation at bases, given unclear
   duration of pt's down time prior to transfer to ED will cover for
   possible aspiration PNA-bilateral. Sputum Cx c/w mixed species
   -          Continue Unasyn
   -          Await speciation of Cx.
   # Guaiac + NGT aspirate - pt with history varices and significant
   variceal bleeding, also EtOH abuse. Hct stable overnight and
   hemodynamics not c/w acute bleed.
   - Continue to follow q12h Hcts
   - IV PPI [**Hospital1 **]
   - consider EGD if evidence of active bleeding
   - two type and screens sent
   - 2 PIV
   # Hypotension
 likely secondary to physiology of hepatic failure and
   possibly opioid toxicity.  s/p volume resuscitation and albumin.  No
   issues O/N.
   - Continue to hold home BP meds as BP is WNL
   - Follow BPs and urine ouput closely, adjust regimen as needed
   #Hyponatremia
 Likely secondary to end-stage liver disease and
   component of pre-renal azotemia. Improving appropriately with NS, yet
   correction occurred rapidly suggesting free water deficit.
   -Will provide free water at 1L of [**1-5**] NS at 100cc/hr
   #Hypokalemia
 Repleted K+ this am. Continue to follow K+
   # Large Flank Hematoma - given unclear duration prior to discovery of
   pt and extent of hematoma, we checked a CK which was normal.  Area
   outlined, improving. Moving both lower extremities equally.
   # FEN
 NPO for now.
   .
   # Access - 2 PIVs
   .
   # Code
 Full for now. Will attempt to clarify his wishes with his
   family.
   # Dispo
 Called out to floor.
   [**First Name8 (NamePattern2) 34**] [**Last Name (NamePattern1) 5783**] MSIV
   Patient seen and examined. Agree with above MS4 note and plan.  Pt
   called out to floor

2118-10-12 11:26:00 Physician Attending Progress Note
Chief Complaint: resp failure, overdose, hepatocellular carcinoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Sucessfully extubated
   On CIWA scale
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2118-10-11**] 02:30 AM
   Ampicillin/Sulbactam (Unasyn) - [**2118-10-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-10-12**] 07:47 AM
   Lorazepam (Ativan) - [**2118-10-12**] 07:47 AM
   Other medications:
   Folate, Thiamine, Protonix, Lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-10-12**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 95 (74 - 114) bpm
   BP: 102/53(65) {88/41(53) - 137/113(116)} mmHg
   RR: 15 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.7 kg (admission): 90 kg
             Total In:
                                                                  5,127 mL
                                                                    999 mL
   PO:
             TF:
   IVF:
                                                                  4,637 mL
                                                                    999 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  2,920 mL
                                                                    980 mL
   Urine:
                                                                  1,570 mL
                                                                    880 mL
   NG:
                                                                    500 mL
   Stool:
                                                                    850 mL
   Drains:
   Balance:
                                                                  2,207 mL
                                                                     19 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 569 (569 - 569) mL
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 35
   SpO2: 97%
   ABG: ///23/
   Ve: 7.8 L/min
   Physical Examination
   Gen lying in bed, awake but confused
   HEENT: ETT
   CV:RR
   Chest : fair air movement
   ABd distended, palpable mass over epigatrium
   Ext: trace edema
   Neuro: PERRL, spont movement of all ext
   Labs / Radiology
   8.4 g/dL
   178 K/uL
   91 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.3 mEq/L
   33 mg/dL
   108 mEq/L
   139 mEq/L
   25.0 %
   8.8 K/uL
        [image002.jpg]
                             [**2118-10-10**]  11:53 PM
                             [**2118-10-11**]  01:49 AM
                             [**2118-10-11**]  05:05 AM
                             [**2118-10-11**]  01:50 PM
                             [**2118-10-12**]  01:23 AM
   WBC
   11.2
   10.3
   8.8
   Hct
   25.4
   24.5
   24.9
   25.0
   Plt
   [**Telephone/Fax (3) 5884**]
   Cr
   1.3
   1.3
   1.1
   1.0
   TropT
   <0.01
   TCO2
   32
   Glucose
   88
   79
   113
   91
   Other labs: PT / PTT / INR:26.8/39.5/2.7, CK / CKMB /
   Troponin-T:61//<0.01, ALT / AST:45/201, Alk Phos / T Bili:99/7.6,
   Fibrinogen:257 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:1.8 g/dL, LDH:667
   IU/L, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   48 yr old man with hepc, cirrhosis, HCC
   1.       Respiratory Failure: successfully extubated. Sputum gram stain
 GPC
 awaiting cx
   2.       Altered Mental Status: multi factorial
 opiates,? etoh,
   hepatic encephalopathy. Will give lactulose PR, add Rifaximin once he
   can take po.
   3.       Bloody NGT outpt- resolved -trend HCT q12, IV PPI. GI aware,
   no indication for scope at present
   4.       PNA: Unasyn- follow up cx
   5.       HypoNa: pre renal plus liver failure.
   ICU Care
   Nutrition: start pos when mental status stable
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-10-10**] 09:00 PM
   20 Gauge - [**2118-10-10**] 09:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  ppi
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor